US08071807B2
Synthesis of {3-[4-[(2,2-Dimethyl-propionyl)-methyl-amino]-2-(2,2,2-trifluoro-ethylsulfanylmethyl)-phenoxy]-4-methoxy-phenyl}-acetic acid (Compound 34)
To {3-[4-(2,2-dimethyl-propionylamino)-2-(2,2,2-trifluoro-ethylsulfanylmethyl)-phenoxy]-4-methoxy-phenyl}-acetic acid (0.128 g, 0.26 mmol) in MeCN (3 mL) was added iodomethane (0.03 mL, 0.53 mmol), followed by sodium hydride (60% in mineral oil; 0.021 g, 0.53 mmol). The reaction was stirred at room temperature, but only starting material was seen by analytical LCMS, so the reaction was heated to 60° C. for 2 hours, and then cooled to room temperature and stirred for 2 days under N2. The mixture was used directly in the hydrolysis step. To a solution of {3-[4-[(2,2-dimethyl-propionyl)-methyl-amino]-2-(2,2,2-trifluoro-ethylsulfanylmethyl)-phenoxy]-4-methoxy-phenyl}-acetic acid methyl ester (0.26 mmol) in MeCN was added H2O, MeOH, and lithium hydroxide, and the reaction was heated to 65° C. for 1 hour to give the title compound.

reactant | {3-[4-(2,2-dimethyl-propionylamino)-2-(2,2,2-trifluoro-ethylsulfanylmethyl)-phenoxy]-4-methoxy-phenyl}-acetic acid | 0.26 mmol, 0.128 g | CC(C(=O)NC1=CC(=C(OC=2C=C(C=CC2OC)CC(=O)O)C=C1)CSCC(F)(F)F)(C)C | C23H26F3NO5S
reactant | iodomethane | 0.53 mmol, 0.03 mL | IC | CH3I
reactant | sodium hydride | 0.53 mmol, 0.021 g | [H-].[Na+]
reactant | {3-[4-[(2,2-dimethyl-propionyl)-methyl-amino]-2-(2,2,2-trifluoro-ethylsulfanylmethyl)-phenoxy]-4-methoxy-phenyl}-acetic acid methyl ester | 0.26 mmol | COC(CC1=CC(=C(C=C1)OC)OC1=C(C=C(C=C1)N(C)C(C(C)(C)C)=O)CSCC(F)(F)F)=O | C25H30F3NO5S
reactant | lithium hydroxide | [OH-].[Li+]
solvent | MeCN | 3 mL | CC#N | C2H3N
solvent | MeOH | CO | CH4O
solvent | H2O | O | H2O
product | {3-[4-[(2,2-Dimethyl-propionyl)-methyl-amino]-2-(2,2,2-trifluoro-ethylsulfanylmethyl)-phenoxy]-4-methoxy-phenyl}-acetic acid | CC(C(=O)N(C1=CC(=C(OC=2C=C(C=CC2OC)CC(=O)O)C=C1)CSCC(F)(F)F)C)(C)C | C24H28F3NO5S
